US04952722
The crude 2-(2-chloropropionyl)-1,4-dimethylbenzene was slowly added to concentrated sulfuric acid (400 ml), preheated to 105° C. The solution was then stirred at 105°-110° C. for 30 minutes. The cooled mixture was poured onto cracked ice and the precipitate collected to give 4,7-dimethylindan-1-one (59.4 g, 65.6%) as a pale solid, mp 70° C.

reactant | 2-(2-chloropropionyl)-1,4-dimethylbenzene | ClC(C(=O)C1=C(C=CC(=C1)C)C)C | C11H13ClO
solvent | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
product | 4,7-dimethylindan-1-one | 59.4 g, 65.6% | CC1=C2CCC(C2=C(C=C1)C)=O | C11H12O
